*** SPICE deck for cell inv_hi{lay} from library vlsi
*** Created on 星期一 十一月 24, 2014 19:20:02
*** Last revised on 星期四 十一月 27, 2014 00:09:22
*** Written on 星期四 十一月 27, 2014 00:46:49 by Electric VLSI Design System, 
*version 8.06
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
.MODEL N NMOS LEVEL=1
+KP=60E-6 VTO=0.7 GAMMA=0.3 LAMBDA=0.05 PHI=0.6
+LD=0.4E-6 TOX=40E-9 CGSO=2.0E-10 CGDO=2.0E-10 CJ=2.0E-04
.MODEL P PMOS LEVEL=1
+KP=20E-6 VTO=0.7 GAMMA=0.4 LAMBDA=0.05 PHI=0.6
+LD=0.6E-6 TOX=40E-9 CGSO=3.0E-10 CGDO=3.0E-10 CJ=2.0E-04
.MODEL DIFFCAP D CJO=2.0E-04

*** TOP LEVEL CELL: inv_hi{lay}
Mnmos_1 y a 0 0 N L=0.6U W=1.2U AS=4.68P AD=3.15P PS=15U PD=7.2U
Mpmos_1 y a vdd vdd P L=0.6U W=3U AS=7.38P AD=3.15P PS=18.6U PD=7.2U

Vdd vdd 0 DC 1.06
Va a 0 PULSE(0 1.06 1u 20u 20u 980u 2m)
*Va a 0 3.3
Ra a 0 1k
*Ra a 0 1k
Cy y 0 1p
*Ry y 0 1

.TRAN 1u 5m 0 10u
.PROBE

.END
